US06686469B2
P1.9: 4-(4-bromophenyl)-3-cyano-2-(2,6-difluorophenyl)-pyrimidine
6 g of 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-chloropyrimidine, 80 ml of dimethylformamide, 1.53 g of KCN and 0.93 g of sodium tolylsulfinate are mixed together, stirred for 3 hours at 80° C., mixed with ice water and filtered. After dissolving the precipitate in ethyl acetate, drying with magnesium sulfate, filtering and concentrating, the title compound is obtained with a melting point 146-148° C. (compound 3.355).

reactant | 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-chloropyrimidine | 6 g | BrC1=CC=C(C=C1)C=1N(C(N=CC1)C1=C(C=CC=C1F)F)Cl | C16H10BrClF2N2
reactant | KCN | 1.53 g | [C-]#N.[K+]
reactant | sodium tolylsulfinate | 0.93 g | C1(=C(C=CC=C1)S(=O)[O-])C.[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-(4-bromophenyl)-3-cyano-2-(2,6-difluorophenyl)-pyrimidine | BrC1=CC=C(C=C1)C=1N(C(N=CC1)C1=C(C=CC=C1F)F)C#N | C17H10BrF2N3
